US04002746
1-Dimethylamino-6-m-methoxyphenylhex-2-yne
To prepare 1-diethylamino-6-(3,5-diethoxyphenyl)-hex-2-yne treat 5-(3,5-diethoxyphenyl)pent-1-yne (ca. 8 g) according to the manipulative procedure described above.

reactant | 1-diethylamino-6-(3,5-diethoxyphenyl)-hex-2-yne | C(C)N(CC#CCCCC1=CC(=CC(=C1)OCC)OCC)CC | C20H31NO2
reactant | 5-(3,5-diethoxyphenyl)pent-1-yne | ca. 8 g | C(C)OC=1C=C(C=C(C1)OCC)CCCC#C | C15H20O2
product | 1-Dimethylamino-6-m-methoxyphenylhex-2-yne | CN(CC#CCCCC1=CC(=CC=C1)OC)C | C15H21NO
